US08217168B2
Preparation 3: 2-[3,3-bis(methyloxy)propyl]-6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (P3)
To a solution of 6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (P2, 90 mg, 0.389 mmol) in N,N-Dimethylformamide (DMF) (0.6 mL), potassium carbonate (64.6 mg, 0.467 mmol) and 3-bromo-1,1-bis(methyloxy)propane (commercially available from Aldrich, 0.071 mL, 0.467 mmol), were added and the mixture was stirred at rt overnight. The day after the reaction mixture was quenched with water and diluted with AcOEt. Organic phase was washed with water and brine, dried over Na2SO4 and evaporated under reduced pressure. Crude product was purified by flash chromatography (Cy 100% to Cy/AcOEt 6:4) affording the title compound 2-[3,3-bis(methyloxy)propyl]-6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (92 mg, 0.276 mmol, 70.9% yield) as a clear oil.

reactant | 6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.389 mmol, 90 mg | CC=1C(N(C(NN1)=O)C(=O)C1=CC=CC=C1)=O | C11H9N3O3
reactant | potassium carbonate | 0.467 mmol, 64.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1,1-bis(methyloxy)propane | BrCCC(OC)OC | C5H11BrO2
solvent | N,N-Dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
product | 2-[3,3-bis(methyloxy)propyl]-6-methyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.276 mmol, 92 mg, 70.9% yield | COC(CCN1N=C(C(N(C1=O)C(=O)C1=CC=CC=C1)=O)C)OC | C16H19N3O5
